US04382939
9-Chloro-3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 59 from 9-chloro-3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (0.9 g, 0.003 moles), glacial acetic acid (5 ml), and sodium borohydride (0.6 g, 0.016 moles). Recrystallization from isopropyl ether gave the product (0.45 g), mp 78°-80° C.

reactant | 9-chloro-3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.003 moles, 0.9 g | ClC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)NCC)C(O2)=O)C | C18H23ClN2O2
reactant | sodium borohydride | 0.016 moles, 0.6 g | [BH4-].[Na+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 9-Chloro-3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.45 g | ClC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)N(CC)CC)C(O2)=O)C | C20H27ClN2O2
